reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3][H:12])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10].[O:4]([H:13])[H:14]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],6.694811092387567
[C:1]([O:2][C:4]1=[N:5][C:3]1([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],69.887726660562
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]12[O:5][C@:7]1([H:15])[C:6]2)[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],2.7192747965613933
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2](=[O:3])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],81.69994191810738
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([C:6]([O:7][H:8])([H:10])[H:13])([H:11])[H:12])[H:9],75.3698717631783
[O:1]([C:2](/[C:3](=[C:4](/[O:5][H:9])[H:11])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],55.1116695730567
[C:1]([C:2]([O:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[O+:3][C-:4]([H:11])[H:12])[H:9])([H:5])([H:6])[H:7].[H:8][H:10],83.0777898300576
[O:1]=[C:2]([C@@:3]([C:4]([H:9])([H:10])[H:11])([O+:6]=[C-:5][H:12])[H:8])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],42.7032455556833
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:17])([H:7])([H:8])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])(=[O+:5][C-:6]([H:16])[H:18])[H:12],92.6701651859602
[C:1]1([H:7])([H:9])[C:2]([H:8])=[C:3]1[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],41.171194676454405
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[H:11][H:12].[N:5](=[C:6]([H:13])[H:14])[C:7]([H:15])([H:16])[H:17],74.2205981350102
[C:1](=[N:2][H:8])([H:5])[H:6].[C:3](=[O:4])([H:7])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],50.567313008789895
[N:1](=[C:2]=[C:7]1[O:5][C@:6]1(/[N:4]=[N:3]\[H:10])[H:9])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],34.219100973745014
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O:1]([C:2](=[C:3]=[O:4])[H:7])[C:5]#[C:6][H:8],90.8007216053635
[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:3]([C:4]#[C:5][H:11])([H:6])([H:9])[H:10].[O:1]=[C:2]([H:7])[H:8],87.50824194963671
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:14])[H:16])\[H:15]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],47.50789741109669
[C:1]([C:2]([C@:3]([C:5]([H:16])([H:17])[H:18])([C:6]1=[N:7][C:4]1([H:13])[H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],70.68958315231589
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[C:3](\[O:5][H:15])[H:11])[H:9])([H:6])([H:7])[H:8].[C:4]([H:10])([H:12])([H:13])[H:14],108.78355607954701
[C:1]([C:2][O:3][H:12])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])([H:11])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],21.1355201417823
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:16],74.1704559111452
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])=[C:6]([H:10])[H:12])([H:7])([H:8])[H:9],68.02549093530621
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[C:7][H:13])([H:11])[C@@:4]1([O:5][H:8])[H:12],52.249125543817605
[C:1]([O:2][C:3](/[C:4](=[N:5]\[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:16]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],50.16705645131342
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N+:5](=[C-:6][O:7][H:13])[H:12])([H:8])([H:9])[H:10],77.3791313118025
[O:1]([C:4]([C:3]([C+:2]=[C:5]=[N-:6])([H:8])[H:9])([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],25.24796263169599
